US07265246B2
Prepare a solution of 5-bromothiophene-3-carboxylic acid (500 mg, 2.41 mmol) in methanol (5 mL). Add concentrated hydrochloric acid (0.1 mL). Reflux the mixture for 3 hours, cool to room temperature, pour into water, and extract with diethyl ether (3×10 mL). Wash the combined organic phases with water (10 mL), then saturated aqueous sodium hydrogencarbonate (10 mL). Dry (magnesium sulfate), filter and concentrate. Perform flash chromatography on silica gel eluting with 5:1 hexane/ethyl acetate to afford 409 mg of 5-bromothiophene-3-carboxylic acid methyl ester as a white solid. 1H NMR (CDCl3) δ 8.10 (d, J=1.5 Hz, 1H), 7.17 (d, J=1.5 Hz, 1H), 3.86 (s, 3H).

reactant | 5-bromothiophene-3-carboxylic acid | 2.41 mmol, 500 mg | BrC1=CC(=CS1)C(=O)O | C5H3BrO2S
reactant | hydrochloric acid | 0.1 mL | Cl | ClH
reactant | water | O | H2O
reactant | methanol | 5 mL | CO | CH4O
product | 5-bromothiophene-3-carboxylic acid methyl ester | 409 mg | COC(=O)C1=CSC(=C1)Br | C6H5BrO2S
